US06509354B1
To 0.9 g (3.8 mmol) of 3-(2,4-dichlorophenyl)aniline and 0.6 g (4.0 mmol) of diisopropyl disulfide in 20 ml of acetonitrile, 0.4 g (4.0 mmol) of tert-butyl nitrite was added dropwise at 60° C. The reaction mixture was stirred at the same temperature for 1 hour, and the low-boiling matters were distilled off under reduced pressure, the residue was separated with water and ethyl acetate. The ethyl acetate layer was washed with water and dried over anhydrous magnesium sulfate, and the ethyl acetate was distilled off under reduced pressure. Purification of the residue by silica gel column chromatography afforded 0.25 g of [3-(2,4-dichlorophenyl)phenyl]isopropyl sulfide (yield 31.0%) as a colorless liquid (nD20 1.6143).

reactant | 3-(2,4-dichlorophenyl)aniline | 3.8 mmol, 0.9 g | ClC1=C(C=CC(=C1)Cl)C=1C=C(N)C=CC1 | C12H9Cl2N
reactant | diisopropyl disulfide | 4.0 mmol, 0.6 g | C(C)(C)SSC(C)C | C6H14S2
reactant | tert-butyl nitrite | 4.0 mmol, 0.4 g | N(=O)OC(C)(C)C | C4H9NO2
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | [3-(2,4-dichlorophenyl)phenyl]isopropyl sulfide | 0.25 g, yield 31.0% | ClC1=C(C=CC(=C1)Cl)C=1C=C(C=CC1)SC(C)C | C15H14Cl2S
